US06294668B1
(E)-(6R,7R)-3-[1-[1-[(4-Hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-[2-(1-benzothiazol-2-ylsulfanyl)-acetylamino]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
With 70.0 mg (0.43 mmol) 1,1′-carbonyldiimidazole, 96.0 mg (0.43 mmol) (benzothiazol-2-ylsulfanyl)-acetic acid and 233.8 mg (0.36 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml N,N-dimethylacetamide.

reactant | 1,1′-carbonyldiimidazole | 0.43 mmol, 70.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (benzothiazol-2-ylsulfanyl)-acetic acid | 0.43 mmol, 96.0 mg | S1C(=NC2=C1C=CC=C2)SCC(=O)O | C9H7NO2S2
reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate | 0.36 mmol, 233.8 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC=C(C=C1)O)=O)=O
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | (E)-(6R,7R)-3-[1-[1-[(4-Hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-7-[2-(1-benzothiazol-2-ylsulfanyl)-acetylamino]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | OC1=CC=C(C=C1)NC(=O)C[N+]1=CC=C(C=C1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CSC=1SC2=C(N1)C=CC=C2)=O)=O)C(=O)[O-])=O | C35H30N6O7S3
